US08895547B2
Biphenyl-4-yl-(3-hydroxyoxetan-3-yl)methanesulfonamide
Under inert gas, 0.500 g of C-biphenyl-4-yl-N-(2,4-dimethoxybenzyl)methanesulfonamide was initially charged in 5 ml of THF and then, at −78° C., 1.8 ml of a 1.6 N butyllithium solution in hexane were added dropwise. The reaction mixture was stirred for 5 minutes and then admixed dropwise with 0.24 ml of 3-oxetanone. The mixture was stirred at constant temperature for 5 minutes, 0.28 ml of trifluoroacetic acid were added and the mixture was allowed to come to room temperature. The solvent was removed under reduced pressure. The residue was dissolved in 2 ml of dichloromethane, and 2 ml of trifluoroacetic acid were added. After stirring at room temperature for 60 minutes, 50 ml of saturated potassium carbonate solution were added and the mixture was extracted with dichloromethane, dried over magnesium sulfate and concentrated. The crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. This gave the product (170 mg) with a molecular weight of 319.4 g/mol (C16H17NO4S).

reactant | C-biphenyl-4-yl-N-(2,4-dimethoxybenzyl)methanesulfonamide | 0.500 g | C1(=CC=C(C=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC)C1=CC=CC=C1 | C22H23NO4S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | 3-oxetanone | 0.24 ml | O1CC(C1)=O | C3H4O2
reactant | trifluoroacetic acid | 0.28 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Biphenyl-4-yl-(3-hydroxyoxetan-3-yl)methanesulfonamide | 170 mg | C1(=CC=C(C=C1)C(S(=O)(=O)N)C1(COC1)O)C1=CC=CC=C1 | C16H17NO4S
